* C:\Users\Ian Diaz\Desktop\ITBA\TC\TP--FINAL\Calculus\simulation_generated_20191114-182527.asc
R4_2 N001 Vin_1 {R4_1}
R1_2 N011 N001 {R1_1}
C1_2 N011 N001 {C1_1}
R3_2 N002 N001 {R3_1}
R7_2 N016 N011 {R7_1}
R8_2 Vin_2 N016 {R8_1}
R6_2 N016 Vin_1 {R6_1}
C2_2 N002 N025 {C2_1}
R2_2 N025 Vin_2 {R2_1}
R1 N009 Vin_5 {R4_5}
R2 N019 N009 {R1_5}
C1 N019 N009 {C1_5}
R3 N010 N009 {R3_5}
R4 N022 N019 {R7_5}
R5 Vout N022 {R8_5}
C2 N010 N028 {C2_5}
R7 N028 Vout {R2_5}
XU1 0 N001 +VCC -VCC N011 TL082
XU2 0 N016 +VCC -VCC Vin_2 TL082
XU3 0 N025 +VCC -VCC N002 TL082
XU4 0 N009 +VCC -VCC N019 TL082
XU5 0 N022 +VCC -VCC Vout TL082
XU6 0 N028 +VCC -VCC N010 TL082
R6 N005 Vin_3 {R4_3}
R8 N013 N005 {R1_3}
C3 N013 N005 {C1_3}
R9 N006 N005 {R3_3}
R10 N020 N013 {R7_3}
R11 Vin_4 N020 {R8_3}
R12 N020 Vin_3 {R6_3}
C4 N006 N026 {C2_3}
R13 N026 Vin_4 {R2_3}
XU9 0 N005 +VCC -VCC N013 TL082
XU10 0 N020 +VCC -VCC Vin_4 TL082
XU11 0 N026 +VCC -VCC N006 TL082
R15 N012 N003 {R1_2}
C5 N012 N003 {C1_2}
R16 N004 N003 {R3_2}
R17 N018 N012 {R7_2}
R18 Vin_3 N018 {R8_2}
C6 N004 N024 {C2_2}
R20 N024 Vin_3 {R2_2}
XU7 0 N003 +VCC -VCC N012 TL082
XU12 0 N018 +VCC -VCC Vin_3 TL082
XU13 0 N024 +VCC -VCC N004 TL082
R14 N024 Vin_2 {R5_2}
V1 +VCC 0 5
V2 0 -VCC 5
V3 N023 0 AC 100
R19 N017 N007 {R1_4}
C7 N017 N007 {C1_4}
R21 N008 N007 {R3_4}
R22 N021 N017 {R7_4}
R23 Vin_5 N021 {R8_4}
C8 N008 N027 {C2_4}
R24 N027 Vin_5 {R2_4}
XU14 0 N007 +VCC -VCC N017 TL082
XU15 0 N021 +VCC -VCC Vin_5 TL082
XU16 0 N027 +VCC -VCC N008 TL082
R25 N027 Vin_4 {R5_4}
R26 Vin_1 N023 50
XU8 0 N014 VCC+ VCC- N015 TL082
R27 N014 Vout 100K
R28 N015 N014 88K
.inc TL082.mod
.ac dec 100 100 100k
* LOWPASS
* HIGHPASS
* LOWPASS
* HIGHPASS
* BANDPASS
.param R1_1 5600.0
.param R2_1 1500.0
.param R3_1 1000.0
.param R4_1 10000.0
.param R6_1 1800.0
.param R7_1 1000.0
.param R8_1 1000.0
.param C1_1 1e-08
.param C2_1 1e-08
.param R1_2 2400.0
.param R2_2 2700.0
.param R3_2 1000.0
.param R5_2 3600.0
.param R7_2 1000.0
.param R8_2 1000.0
.param C1_2 1e-08
.param C2_2 1e-08
.param R1_3 36000.0
.param R2_3 68000.0
.param R3_3 1000.0
.param R4_3 36000.0
.param R6_3 1000.0
.param R7_3 1000.0
.param R8_3 1000.0
.param C1_3 1e-08
.param C2_3 1e-08
.param R1_4 3000.0
.param R2_4 10000.0
.param R3_4 1000.0
.param R5_4 560.0
.param R7_4 1000.0
.param R8_4 1000.0
.param C1_4 1e-08
.param C2_4 1e-08
.param R1_5 9100.0
.param R2_5 39000.0
.param R3_5 1000.0
.param R4_5 6200.0
.param R7_5 1000.0
.param R8_5 1000.0
.param C1_5 1e-08
.param C2_5 1e-08
.backanno
.end
